* source PAI
R_R8         N00780 0 1k
V_V2         VCC 0 18V
R_R2         0 N00957  15k TC=0,0 
R_R5         0 N00629  1k TC=0,0 
R_R13         N00780 N00776  1 TC=0,0 
R_R18         N00694 VCC  15k TC=0,0 
V_V3         N01436 0  AC 0.2
+SIN 0 0.2 1k 0 0 0
C_C9         N01258 N00716  4.7u  TC=0,0 
Q_Q1         N00793 N00637 N00629 BC846B 
Q_Q2         N00694 N00793 N00776 BC846B 
R_R4         0 N00957  100k TC=0,0 
R_R3         0 N00957  100k TC=0,0 
R_R14         N00793 N23425  47k TC=0,0 
R_R15         N23425 N23442  47k TC=0,0 
R_R1         N00957 N01436  1000k TC=0,0 
C_C7         N01258 N00694  4.7u  TC=0,0 
R_R6         N00637 N28542 330k
R_R7         N28517 N00780 15k
C_C5         N00780 0  10u  TC=0,0 
C_C6         N00780 0  10u  TC=0,0 
X_POT         0 N00716 N00716 POT PARAMS: SET=0.5 VALUE=50k
C_C1         N00957 N00637  4.7u  TC=0,0 
C_C4         N00780 0  10u  TC=0,0 
C_C3         N00780 0  10u  TC=0,0 
R_R9         N00629 N23289 100k
R_R10         N23289 N23285 10k
R_R12         N23281 N01258 10k
R_R11         N23285 N23281 100k
R_R16         N28809 N23442  47k TC=0,0 
R_R17         N28834 N28809  47k TC=0,0 
R_R19         N28542 N28517 15k
R_R20         N28898 N28834  10k TC=0,0 
R_R21         VCC N28898  2k TC=0,0 
